US05672609
2-[4-[2-(4-Morpholinyl)ethoxy]phenyl]-3-(4-methoxyphenyl)-6-methylpyridine
The 2-(4-hydroxyphenyl)-3-(4-methoxyphenyl)-6-methylpyridine (3.0 g, 10 mmol), N-(2-chloroethyl)morpholine hydrochloride (1.9 g, 10 mmol), and powdered K2CO3 (7.1 g, 51 mmol) were stirred in 200 mL methyl ethyl ketone and refluxed 20 h. The reaction mixture was worked up and purified by prep. chromatography (EtOH/ CH2Cl2 gradient), triturated with Et2O/ pet. ether, filtered, and dried in vacuo to give 3.4 g (82% yield) of white solid: mp 66°-67° C.; 1H NMR (CDCl3) d 2.55-2.58 (m 4H, morpholine), 2.62 (s, 3H, pyr-CH3), 2.76-2.80 (t, 2H, J=6 Hz, NCH2), 3.72-3.75 (m, 4H, morpholine), 3.80 (s, 3H, ArOCH3), 4.06-4.10 (t, 2H, J=6 Hz, OCH2), 6.75-6.81 (m, 4H, ArH), 7.05-7.14 (m, 4H, ArH), 7.26-7.29 (m, 1H, ArH) 7.54-7.56 (d, 1H, J=8 Hz, ArH); MS(FD) 404(M+). Anal. Calcd for C25H28N2O3 : C, 74.23; H, 6.98; N, 6.93. Found: C, 74.50; H, 6.91; N, 7.05.

reactant | 2-(4-hydroxyphenyl)-3-(4-methoxyphenyl)-6-methylpyridine | 10 mmol, 3.0 g | OC1=CC=C(C=C1)C1=NC(=CC=C1C1=CC=C(C=C1)OC)C | C19H17NO2
reactant | N-(2-chloroethyl)morpholine hydrochloride | 10 mmol, 1.9 g | Cl.ClCCN1CCOCC1
reactant | K2CO3 | 51 mmol, 7.1 g | C(=O)([O-])[O-].[K+].[K+]
solvent | methyl ethyl ketone | 200 mL | C(C)C(=O)C | C4H8O
product | 2-[4-[2-(4-Morpholinyl)ethoxy]phenyl]-3-(4-methoxyphenyl)-6-methylpyridine | 3.4 g, 82% yield | N1(CCOCC1)CCOC1=CC=C(C=C1)C1=NC(=CC=C1C1=CC=C(C=C1)OC)C | C25H28N2O3
